US04844835
13.6 g of zinc powder, 1.4 g of mercury chloride, 0.7 ml of conc. hydrochloric acid, and 20 ml of water were mixed with shaking for five minutes, and then the supernatant solution was flowed out. To the obtained zinc amalgam, 10 ml of water, 24 ml of conc. hydrochloric acid, 1 ml of acetic acid, 14 ml of toluene, and 38 m moles(10.2 g) of 4'-methoxy-4-(2-methylbutyryl)biphenyl were added, and then refluxed for 20 hours. In the mean time, 5 ml portions of conc. hydrochloric acid was successively added every five hours. The reaction solution was cooled to room temperature, then, after the addition of water, ether extracted. The extract was washed with water, dried, and concentrated, and then purified by column chromatography, to obtain 7.1 g of 4'-methoxy-4-(2-methylbutyl)biphenyl. (yield: 74%)

reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | hydrochloric acid | 24 ml | Cl | ClH
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | 4'-methoxy-4-(2-methylbutyryl)biphenyl | 10.2 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(C(CC)C)=O | C18H20O2
catalyst | zinc | 13.6 g | [Zn] | Zn
catalyst | mercury chloride | 1.4 g | [Hg]Cl
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 4'-methoxy-4-(2-methylbutyl)biphenyl | 7.1 g, yield: 74% | COC1=CC=C(C=C1)C1=CC=C(C=C1)CC(CC)C | C18H22O
